Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with a history of suspected metastatic prostate cancer with
PSA >700, extensive osseous lesions, adenopathy and right
hydronephrosis (currently awaiting biopsy results) as well as AF
on rivaroxaban who presents with abnormal labs and weakness. 

He and his family report generalized weakness and mild
confusion/inattention over the past few days. He has not been
maintaining eye contact as he usually does. He also reports some
blurry vision. They also note that he had labs drawn recently
that indicate kidney injury. He says that he has been urinating
normally since his biopsy although he initially noted some
hematuria. He has been constipated for several days. He has not
been able to eat much recently and has had some nausea, but no
vomiting. He also has had subacute bilateral lower extremity
edema

In the ED, initial VS were:  95.8 56 150/110 16 99% RA 
Exam notable for:
Gen: NAD, AxOx3, able to recite days of the week backwards 
Cards: RRR, no M/R/G
Resp: CTAB
Abd: soft, NTND
Ext: 2+ pitting edema to knees bilaterally 
Labs showed: Creatinine of 2.3, dirty UA
Imaging showed:
Adjacent hypodense areas in the posterior left occipital lobe
could represent subacute infarcts versus small masses with
surrounding edema. Consider further evaluation with MRI. 
Renal US with Moderate bilateral hydronephrosis.
Consults: Neurosurgery
Patient received: Dexamethasone 4 mg
Transfer VS were:  98.1 111 125/85 16 98% RA 

On arrival to the floor, patient reports that he is here for 
pain
in his penis and his back.  He is also had 20 days of L leg
swelling and had a cyst in the back of his left leg.  He 
endorses
some confusion.  He denies fevers but has had some chills.  He
denies nausea or vomiting or chest pain.  Endorses dizziness 
with
movement for the last ___ days.  He had some blurry vision
earlier that has resolved.  He denies abdominal pain.  He has 
had
constipation for last 4 days which she relates to using
oxycodone.  His normal bowel habits are daily.  He denies 
problem
with decreased urination recently however he has had dysuria
since his biopsy.
 
Past Medical History:
Vein stripping procedure done in ___ in ___
Atrial fibrillation on AC
BPH

 
Social History:
___
Family History:
Denies history of GU malignancies including prostate, kidney,
bladder cancer
 
Physical Exam:
ADMISSION EXAM
========================
VS: 97.9 PO 132 / 84 99 16 96 Ra 
GENERAL: NAD, very pleasant
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple,  no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: nondistended, nontender in all quadrants,  + back brace
on
BACK: TTP over lumbar spine. 
EXTREMITIES: no cyanosis, clubbing, or edema. + varicose veins
NEURO: A&Ox3, face symmetric. ___ strength in UE b/l. 4+/5 in 
RLE
hip flexion and knee flexion. ___ LLE strenght. Intact sensation
to soft touch of lower extremity b/l. 
 
DISCHARGE EXAM
========================
VITALS: Temp: 97.9 PO BP: 130/80 L Lying HR: 84 RR: 18 O2 sat:
96% O2 delivery: Ra 
GENERAL: Older appearing man in no acute distress. Comfortable.
AAOx3.
NEURO: AAOx3. CNII-XII grossly intact. Motor strength ___ in
upper and lower extremities bilaterally. Sensation grossly 
intact
in upper and lower extremities. No saddle anesthesia.
HEENT: NCAT. EOMI. MMM.
CARDIAC: RRR. Normal S1/S2. No murmurs.
PULMONARY: CTAB. Breathing comfortably on room air.
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. 1+ edema LLE.
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS
========================
___ 02:21PM BLOOD WBC-8.2 RBC-4.38* Hgb-13.8 Hct-39.8* 
MCV-91 MCH-31.5 MCHC-34.7 RDW-12.4 RDWSD-41.4 Plt ___
___ 02:21PM BLOOD Neuts-75.2* Lymphs-12.3* Monos-11.0 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-6.16* AbsLymp-1.01* 
AbsMono-0.90* AbsEos-0.06 AbsBaso-0.03
___ 02:21PM BLOOD ___ PTT-24.1* ___
___ 02:21PM BLOOD Glucose-124* UreaN-44* Creat-2.3* Na-134* 
K-5.0 Cl-98 HCO3-21* AnGap-15
___ 02:21PM BLOOD ALT-28 AST-29 AlkPhos-503* TotBili-0.8
___ 02:21PM BLOOD Albumin-3.8 Calcium-9.1 Phos-4.5 Mg-2.4
___ 09:58PM BLOOD K-5.1
 
PERTINENT LABS
========================
___ 07:25AM BLOOD WBC-7.7 RBC-3.95* Hgb-12.5* Hct-36.1* 
MCV-91 MCH-31.6 MCHC-34.6 RDW-13.0 RDWSD-42.9 Plt ___
___ 07:25AM BLOOD Glucose-108* UreaN-33* Creat-2.1* Na-140 
K-4.5 Cl-102 HCO3-23 AnGap-15
___ 07:00AM BLOOD GGT-83*
___ 10:46AM BLOOD %HbA1c-6.1* eAG-128*
___ 07:00AM BLOOD PSA-1783*
___ 07:00AM BLOOD TSH-0.42
 
DISCHARGE LABS
========================
___ 07:25AM BLOOD WBC-7.7 RBC-3.95* Hgb-12.5* Hct-36.1* 
MCV-91 MCH-31.6 MCHC-34.6 RDW-13.0 RDWSD-42.9 Plt ___
___ 07:25AM BLOOD Glucose-108* UreaN-33* Creat-2.1* Na-140 
K-4.5 Cl-102 HCO3-23 AnGap-15
___ 07:25AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.1
 
PERTINENT STUDIES
========================
CT HEAD (___)
Adjacent hypodense areas in the posterior left occipital lobe 
could represent 
subacute infarcts, less likely small masses with surrounding 
edema.  Consider 
further evaluation with MRI. 

MRI HEAD (___)
1.  Study is moderately degraded by motion. 
2. Scattered probable late acute to early subacute infarcts 
involving the left 
occipital lobe, posterolateral left thalamus, and the bilateral 
frontal and 
parietal lobes.  The overall distribution is concerning for 
central embolic 
source. 
3. Please note that areas of enhancement are compatible with 
evolving 
infarcts, underlying enhancing lesions are not excluded on the 
basis 
examination.  Recommend follow-up imaging to resolution. 
4. No definite evidence of acute intracranial hemorrhage. 
5. Left medial occipital foci of mineralization versus chronic 
blood products 
as described. 
6. Filling defects within the left sigmoid sinus, with patency 
of the left 
transverse sinus and left internal jugular vein.  Findings 
remain is concern 
for nonocclusive thrombus within the left sigmoid sinus. 
7. Global parenchymal volume loss and evidence of chronic small 
vessel 
ischemic disease. 
 
MRA BRAIN (___)
The intracranial vertebral and internal carotid arteries and 
their major 
branches appear patent without evidence of stenosis, occlusion, 
or aneurysm 
formation. 
  
MRA NECK (___)
The visualized portions of the common, internal and external 
carotid arteries appear grossly patent.  There is no evidence of 
internal carotid artery  stenosis by NASCET criteria.  The 
vertebral basilar system is right-sided  dominant, a normal 
variant.  The vertebral arteries remain grossly patent through 
their course. 

LOWER EXTREMITY DOPPLER (___)
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 
 
RENAL US (___)
Unchanged mild-to-moderate bilateral hydronephrosis.  No renal 
stones are 
visualized. 
 
CT HEAD (___)
Tiny evolving infarcts, as described above, though some of the 
areas as seen on the prior MR are not visualized on CT.  No new 
acute intracranial 
abnormality.  No intracranial hemorrhage. 
 
MRI HEAD (___)
1. New 0.8 cm focus of restricted diffusion in the left 
cerebellar hemisphere 
is compatible with early acute infarction. 
2. Re-demonstration of multiple areas of evolving infarction in 
the bilateral 
cerebral hemispheres and posterolateral left thalamus, with 
interval 
development of microhemorrhages in an infarcted area in the 
medial left 
occipital lobe. 
3. Areas of parenchymal enhancement are again seen and are 
compatible with 
evolving infarcts, however underlying enhancing lesions cannot 
be excluded on 
the basis of this examination.  As noted before, follow-up 
imaging to 
resolution is recommended. 
4. Similar appearance of filling defects in the left sigmoid 
sinus remain 
concerning for nonocclusive thrombus. 
5. Loss of the normal T1 marrow signal of the C3 vertebral body, 
incompletely 
evaluated on the current exam.  MRI of the cervical spine may be 
helpful for 
further evaluation. 

ECHO (___)
IMPRESSION: Posterior leaflet mitral valve prolapse with 
moderate mitral regurgitation. Mild
symmetric left ventricular hypertrophy with normal cavity size 
and regional/global biventricular systolic
function. Mildly dilated aortic arch.

 
Brief Hospital Course:
___ man with history of atrial fibrillation and newly 
diagnosed metastatic prostate cancer presenting for fatigue, 
weakness, and ___, discovered to have multiple acute-subacute 
CVAs.

# MULTIFOCAL SUBACUTE CVAs
# POSSIBLE LEFT SIGMOID SINUS THROMBUS
Initially presented with symptoms of mild confusion/inattention. 
Underwent CT head and MRI brain demonstrating scattered subacute 
infarcts of possibly cardioembolic source, in addition to 
filling defect within the left sigmoid sinus raising possibility 
of non-occlusive thrombus. No significant residual deficits were 
identified despite these infarcts. Occurred in setting of brief 
discontinuation of rivaroxaban for procedure. Underwent further 
evaluation including MRA head/neck which was normal. A1c, lipid 
panel, and TSH all within normal limits. Given association with 
new diagnosis of metastatic cancer, was initiated on Lovenox 
therapeutic dosing. Course notable for subsequent episode of 
transient right eye blurriness which spontaneously resolved in 
___ minutes. Repeat CT unchanged; repeat MRI ___ demonstrated 
a new L cerebellar infarction, microhemorrhage around medial 
left occipital infarctions and stable sigmoid sinus thrombus. 
MRI findings from ___ were discussed with neurology team and it 
was determined patient was still stable to be discharged on 
lovenox given risk of embolic stroke. Arranged to follow up with 
stroke neurologist as outpatient on a non-urgent basis following 
discharged.

# ACUTE RENAL FAILURE
Presenting labs notable for markedly elevated serum creatinine 
consistent with acute kidney injury. Renal ultrasound 
demonstrated bilateral moderate hydronephrosis with recent 
symptoms of difficulty voiding c/w obstructive ___. Underwent 
Foley placement with adequate urine drainage. Foley was removed 
___ an patient had successful voiding trial. Concern for 
pre-renal hypovolemic component in the setting of poor PO intake 
and tachycardia/hypovolemia on exam, thus patient received IVF 
boluses. Interval renal US continued to demonstrate 
mild-moderate hydronephrosis, overall suggestive of partial 
ureteral obstruction possibly due to malignancy. Unable to 
obtain CT abdomen at this time given acute kidney injury. 
Evaluated by urology who recommended against ureteral stenting 
in the acute setting, though will plan to follow closely as 
outpatient following discharge. Discharge Cr 2.1,

# METASTATIC PROSTATE CANCER
# DIFFUSE OSSEOUS LESIONS
Shortly prior to admission underwent prostate biopsy with 
pathology demonstrating high-grade prostate adenocarcinoma. 
Recent MRI L-spine obtained as outpatient demonstrating 
extensive osseous lesions of the spine. Diffuse weakness though 
no evidence of acute cord compression. Was evaluated by oncology 
in-house with plan to start casodex ___ mg QD with close oncology 
follow up for further management. 

# ATRIAL FIBRILLATION
Xarelto recently held prior to prostate biopsy, possibly 
contributing to newly discovered CVAs. Previously not on rate 
control, though HR frequently >130 during admission. Responded 
appropriately to fluid bolus (dry given recently decreased PO 
intake) in addition to starting metoprolol succinate for goal HR 
<110.

# CONSTIPATION
In setting of recent opiates for cancer-associated pain. 
Resolved with aggressive bowel regimen.

TRANSITIONAL ISSUES
===================
[ ] MRI brain demonstrated multiple acute-subacute infarts as 
well as filling defects within the left sigmoid sinus. Will need 
to remain on anti-coagulation indefinitely
[ ] Posterior leaflet mitral valve prolapse with moderate mitral 
regurgitation.
[ ] Anti-Xa level on ___ at Oncology follow up appointment
[ ] Repeat BMP ___ at ___ clinic 
[ ] Evaluate volume exam ___ and ___ at oncology, ___ ___. Pt 
may require additional IVF. 
[ ] Obtain prior authorization for Lidocaine patch at PCP or 
oncology appointment 
[ ] Repeat orthostatics with ___

NEW MEDICATIONS
Metoprolol succinate 25 mg QD
Casodex ___ mg QD
Lovenox 60 mg BID
Bisacodyl PRN
Lactulose PRN
Senna PRN
Miralax PRN

STOPPED MEDICATIONS
Rivaroxaban 20 mg QD 

#CODE:Full 
#CONTACT: ___ (wife: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) 2.5 mg PO Q3H:PRN Pain - Severe 

2. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - Second Line 
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
2.  Casodex (bicalutamide) 50 mg oral DAILY 
RX *bicalutamide 50 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Enoxaparin Sodium 60 mg SC Q12H 
RX *enoxaparin 60 mg/0.6 mL 1 syringe subcutaneous every 12 
hours Disp #*60 Syringe Refills:*0 
4.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine 5 % apply 1 patch as directed daily Disp #*30 
Patch Refills:*0 
5.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*30 Packet Refills:*0 
7.  Senna 17.2 mg PO BID 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth twice daily 
Disp #*120 Tablet Refills:*0 
8.  OxyCODONE (Immediate Release) 2.5 mg PO Q3H:PRN Pain - 
Severe  
9.Outpatient Physical Therapy
ROLLING WALKER
ICD10: C61
PROGNOSIS: Good
Length of use: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Cardiovascular accident
Acute visual defect
Acute renal injury
Urinary retention
Metastatic prostate cancer

SECONDARY ISSUES:
=================
Constipation
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
- abnormal lab tests
- weakness, fatigue

What was done for you in the hospital:
- We performed an MRI of your brain that showed several small 
strokes. 
- We started you on a blood thinner medication to help reduce 
the risk of future strokes or blood clots
- You were evaluated by the oncology team to help with your 
transition into treatment for prostate cancer
- We placed a Foley catheter to help with your recent symptoms 
of urinary retention.

What you should do after you leave the hospital:
- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your regular doctor to discuss.
- Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set. If there is no specific time specified, and you do not 
hear from their office in ___ business days, please contact the 
office to schedule an appointment.
- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___